US07371869B2
To a solution of 2-[(S)-2-(4-benzo[1,3]dioxol-5-yl4-hydroxy-2,5-dioxo-imidazolidin-1-yl)-3-(4-carbamoyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester (80 mg, 0.14 mmol) in acetic acid (4.0 mL) was added zinc (183 mg, 2.8 mmol). The mixture was heated to 65° C. for 6 hours. The reaction was neutralized with saturated sodium bicarbonate at 0° C. and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The solvents were removed and the product was triturated with methanol/diethyl ether, filtered and dried to give 2-[(S)-2-(4-benzo[1,3]dioxol-5-yl-2,5-dioxo-imidazolidin-1-yl)-3-(4-carbamoyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester (23 mg, 30%).

reactant | 2-[(S)-2-(4-benzo[1,3]dioxol-5-yl4-hydroxy-2,5-dioxo-imidazolidin-1-yl)-3-(4-carbamoyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 0.14 mmol, 80 mg | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=C(C=C1)C(N)=O)N1C(NC(C1=O)(O)C1=CC2=C(OCO2)C=C1)=O)=O | C25H21N5O9S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 4.0 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.8 mmol, 183 mg | [Zn] | Zn
product | 2-[(S)-2-(4-benzo[1,3]dioxol-5-yl-2,5-dioxo-imidazolidin-1-yl)-3-(4-carbamoyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 23 mg, 30% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=C(C=C1)C(N)=O)N1C(NC(C1=O)C1=CC2=C(OCO2)C=C1)=O)=O | C25H21N5O8S
